US06680326B2
The mixture of 3-methoxy-5H-5,9-diaza-benzo[c]fluorene-6,7-dione and 3-methoxy-5H-5,10-diaza-benzo[c]fluorene-6,7-dione (8.77 g) obtained above was suspended in phosphorus oxychloride (359 g) and stirred at 60° C. for three days. Excess phosphorus oxychloride was evaporated under reduced pressure. The residue was treated with ice water and saturated sodium hydrogen carbonate to adjust the pH to about 7. Black ppt was collected with suction and washed water. The ppt was purified by silica gel column chromatography developed by dichloromethane-methanol-trifluoroacetic acid (200:2:1) and by dichloromethane-methanol-trifluoroacetic acid (200:4:1). This chromatography gave two yellow bands. The first band was collected and evaporated. The residue was treated with methanol to give a less polar isomer (1.72 g), 6-chloro-3-methoxy-5,10-diaza-benzo[c]fluoren-7-one (Example 1c-1) as a yellow powder. The second band was collected and evaporated. The residue was treated with methanol to give a more polar isomer (1.86 g), 6-chloro-3-methoxy-5,9-diaza-benzo[c]-fluoren-7-one (Example 1c-2) as a yellow powder.

reactant | 3-methoxy-5H-5,9-diaza-benzo[c]fluorene-6,7-dione | COC=1C=CC2=C(NC(C=3C(C=4C=NC=CC4C23)=O)=O)C1 | C16H10N2O3
reactant | 3-methoxy-5H-5,10-diaza-benzo[c]fluorene-6,7-dione | 8.77 g | COC=1C=CC2=C(NC(C=3C(C=4C=CN=CC4C23)=O)=O)C1 | C16H10N2O3
reactant | phosphorus oxychloride | 359 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-chloro-3-methoxy-5,10-diaza-benzo[c]fluoren-7-one | ClC1=NC2=C(C=3C=4C=NC=CC4C(C13)=O)C=CC(=C2)OC | C16H9ClN2O2
